US03946022
A mixture of 19.3 g (0.07 mole) of α,α -diphenyl-4-piperidinemethanol, 17.1 g (0.08 mole) of 5-chloro-4'-fluorovalerophenone, 20.0 g (0.2 mole) of potassium bicarbonate, and 0.1 g of potassium iodide in 250 ml of toluene and 35 ml of water is stirred on a steam bath for 70 hours. The organic layer is separated and combined with two 50 ml toluene extracts of the aqueous layer. The combined organic material is washed with water and saturated sodium chloride solution, dried over magnesium sulfate and filtered. The filtrate is diluted with about 200 ml of ether then made acidic with ethereal HCl. The resulting precipitate is recrystallized from methanol-butanone to give 4'-fluoro-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride, M.P. 177°-179°C.

reactant | α,α -diphenyl-4-piperidinemethanol | 0.07 mole, 19.3 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | 5-chloro-4'-fluorovalerophenone | 0.08 mole, 17.1 g | ClCCCCC(=O)C1=CC=C(C=C1)F | C11H12ClFO
reactant | potassium bicarbonate | 0.2 mole, 20.0 g | C([O-])(O)=O.[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 35 ml | O | H2O
product | 4'-fluoro-5-[4-(α-hydroxy-α-phenylbenzyl)piperidino]valerophenone hydrochloride | Cl.FC1=CC=C(C=C1)C(CCCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O | InChI=1S/C29H32FNO2.ClH/c30-27-16-14-23(15-17-27)28(32)13-7-8-20-31-21-18-26(19-22-31)29(33,24-9-3-1-4-10-24)25-11-5-2-6-12-25;/h1-6,9-12,14-17,26,33H,7-8,13,18-22H2;1H
